US06774136B2
4-Chloro-2-(piperidin-1-yl-o-tolylmethyl)-naphthalen-1-ol
The preparation was carried out in accordance with general synthesis instructions 4 from 1-(2-methyl-benzylidene)-piperidinium chloride and 4-chloro-1-naphthol.

reactant | 1-(2-methyl-benzylidene)-piperidinium chloride | [Cl-].CC1=C(C=[N+]2CCCCC2)C=CC=C1
reactant | 4-chloro-1-naphthol | ClC1=CC=C(C2=CC=CC=C12)O | C10H7ClO
product | 4-Chloro-2-(piperidin-1-yl-o-tolylmethyl)-naphthalen-1-ol | ClC1=CC(=C(C2=CC=CC=C12)O)C(C1=C(C=CC=C1)C)N1CCCCC1 | C23H24ClNO
